US06743794B2
Ethyl 2-(3-{[4-(2-chloro-6-fluorophenyl)-2-methyl-3-furyl]carbonylamino}cyclohexyl)acetate
To a solution of 3-nitrophenylacetic acid, 1.0 g (5.5 mmol) in 90 mL of ethanol was added 1.0 g of PtO2 and 2 mL of 5N HCl. The mixture was hydrogenated overnight at 60° C. and 60 psi, filtered through celite and concentrated to dryness. To a solution of the residue in 15 mL of dichloromethane was added 3.0 mL (21.6 mmol) of triethylamine and 2.0 g (7.2 mmol) of 3-(2-chloro-6-fluorophenyl)-5-methylisoxazole-4-carbonyl chloride. The solution was stirred overnight at ambient temperature. Chloroform was added and the solution was washed with 0.5N HCl, saturated sodium bicarbonate, brine, dried over sodium sulfate, filtered and concentrated to dryness. The residue was chromatographed on silica gel using 5% acetone/dichloromethane as eluent to yield 2.0 g (66%) of the desired mixture of isomers as a white solid. 1H—NMR is consistent with structure. MS (ion spray) 423.2 (M+1).

reactant | 3-nitrophenylacetic acid | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)O | C8H7NO4
reactant | HCl | 5N, 2 mL | Cl | ClH
reactant | triethylamine | 21.6 mmol, 3.0 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(2-chloro-6-fluorophenyl)-5-methylisoxazole-4-carbonyl chloride | 7.2 mmol, 2.0 g | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)Cl)C | C11H6Cl2FNO2
reactant | ethanol | 90 mL | C(C)O | C2H6O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | PtO2 | 1.0 g | O=[Pt]=O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 2-(3-{[4-(2-chloro-6-fluorophenyl)-2-methyl-3-furyl]carbonylamino}cyclohexyl)acetate | 2.0 g, 66% | ClC1=C(C(=CC=C1)F)C=1C(=C(OC1)C)C(=O)NC1CC(CCC1)CC(=O)OCC | C22H25ClFNO4
